US07582760B2
To a solution of [2-(1-benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester (0.100 g, 0.252 mmol) in 2 mL of anhydrous N,N-dimethylformamide was added sodium hydride (11 mg of a 60% dispersion in mineral oil) under nitrogen. The suspension was stirred at room temperature for ten minutes and then methyl iodide (0.018 mL, 0.277 mmol) was added in one portion. Stirring was continued for one hour and the reaction mixture was added to 150 mL water, and extracted twice with 75 mL ethyl acetate. The combined organic fraction was washed with 100 mL brine, dried over sodium sulfated and concentrated in vacuo. The residue was purified by flash chromatography (18% to 28% ethyl acetate in hexane) to afford 92 mg (0.223 mmol, 88.5%) of [2-(1-benzyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester as a clear oil. MS: 412 (M+H)+.

reactant | [2-(1-benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 0.252 mmol, 0.100 g | C(C)(C)(C)OC(N(C)CCOC1=CC=CC=2N(C(NC21)=O)CC2=CC=CC=C2)=O | C22H27N3O4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.277 mmol, 0.018 mL | CI | CH3I
reactant | water | 150 mL | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | [2-(1-benzyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 0.223 mmol, 92 mg, 88.5% | C(C)(C)(C)OC(N(C)CCOC1=CC=CC=2N(C(N(C21)C)=O)CC2=CC=CC=C2)=O | C23H29N3O4
